US07220877B2
To a stirred solution of (S)-2-ethoxy-3-(4-hydroxyphenyl)-propionic acid ethyl ester (Tetrahedron Letters, Vol. 35, No 19, 3139–3142, 1994) (9.5 g, 40 mmol) in dry methylene chloride (100 ml) was over 1 h dropwise added a solution of bromine in methylene chloride (40 ml) at room temperature. The reaction was stirred for 60 min, washed with saturated sodium sulfite and brine. The organic phase was dried (MgSO4) and evaporated. The residue was purified by column chromatography using heptane:ethyl acetate (9:1) as eluent to give 11.25 g (88%) of (S)-3-(3-bromo-4-hydroxy-phenyl)-2-ethoxy-propionic acid ethyl ester.

reactant | (S)-2-ethoxy-3-(4-hydroxyphenyl)-propionic acid ethyl ester | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | bromine | BrBr | Br2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | (S)-3-(3-bromo-4-hydroxy-phenyl)-2-ethoxy-propionic acid ethyl ester | 11.25 g, 88% | C(C)OC([C@H](CC1=CC(=C(C=C1)O)Br)OCC)=O | C13H17BrO4
